US07919498B2
Prepared according to Procedure C using (8-chloro-2-(2-trifluoromethylphenyl)quinolin-3-yl)methanol (1.10 g, 3.26 mmol) and SOCl2 (1.19 mL, 16.3 mmol, 5 eq) in dichloromethane (5 mL). 8-chloro-3-(chloromethyl)-2-(2-trifluoromethylphenyl)quinoline was obtained as a yellow syrup. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1 H, s), 8.10 (1 H, d, J=8.2 Hz), 8.02 (1 H, d, J=6.3 Hz), 7.95 (1H, d, J=7.4 Hz), 7.72-7.87 (2 H, m), 7.58-7.71 (2 H, m), 4.71 (2 H, dd, J=82.2, 12.1 Hz) Mass Spectrum (ESI) m/e=356.0 and 358.0 (M+1).

reactant | (8-chloro-2-(2-trifluoromethylphenyl)quinolin-3-yl)methanol | 3.26 mmol, 1.10 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CO | C17H11ClF3NO
reactant | SOCl2 | 16.3 mmol, 1.19 mL, 5 eq | O=S(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 8-chloro-3-(chloromethyl)-2-(2-trifluoromethylphenyl)quinoline | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CCl | C17H10Cl2F3N
